Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Ace Inhibitors
 
Attending: ___.
 
Chief Complaint:
Abdominal pain; admitted to ICU for hypotension and anemia with 
guaiac positive stool
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms ___ is a ___ with HTN, HLD, GERD who presented for 
colonosopy and EGD on ___ (for workup of recurrent abdominal 
pain). She had a 9mm cecal polyp removed via hot snare. EGD 
showed erythema in entire stomach and irregular Z-line (biopsy 
taken). After returning home, she began having severe diffuse 
lower abdominal pain, vomited x 1 and felt weak and lightheaded 
prompting her to present to the ED. 

Initial ED vitals, T97.8 P83 BP 91/50 RR16 O2 sat 100%. She 
denied fevers, chills, CP, SOB. Exam notable for diffuse 
abdominal tenderness, guaic positive with dark brown stool, but 
no gross blood.  Labs were significant for WBC 11.4, HCT 39.1, 
Lactate 1.2 and were otherwise normal. CT abd/pelvis showed no 
perforation but shows stranding/edema consistent with 
postpolypectomy electrocautery syndrome. FAST exam was negative. 
GI was consulted and recommended NPO, Abx and IVF. Patient was 
given 2L IVF, Cipro/Flagyl, Percocet, omeprazole PO and Zofran. 
She continued to have episodes of hypotension, responsive to IVF 
while in the ED. Patient appeared pale, diaphoretic on one 
occasion, prompting repeat HCT which was 31. She was then 
admitted to the ICU for further monitoring and management for 
possible lower GIB.

Vitals prior to transfer: T98.7 P90 BP106/64 RR13 O2 sat 99% RA. 
She reported that after she went home she drank tea, ate pita 
bread and took her BP meds which she did not take prior to the 
procedure. She then started having worsening abdominal pain and 
vomited prompting her to present to the ED. In the ED, she at 
some broth which she tolerated ok and she says she felt better 
after eating something and keeping it down. 

In the ICU, fluid resuscitation was continued. She was continued 
on cipro/flagyl. Her BPs stabilized. Her abdominal pain 
improved, and her diet was advanced. She was then called out to 
the floor.

She currently has no complaints except for persistent abdominal 
pain and tenderness on exam. She denied fevers, chills, sweats, 
dysphagia, cough, shortness of breath, chest pain, palpitations, 
trouble with hot or cold, skin changes, rash, arthralgias. 
Remainder of 10 point ROS was negative.
 
Past Medical History:
HTN
GERD
IBS / recurrent epigastric abdominal pain of unclear etiology
Anxiety
Hyperlipidemia
Raynaud's
OA, hip pain
Cervicalgia

Denies prior surgery
 
Social History:
___
Family History:
No family history of colon cancer.
Mom deceased, had hx CVA and HTN, brother with HTN and sister 
with PMR.

 
Physical Exam:
ON ADMISSION TO THE ICU
=======================
Vitals- T:99.1 BP:113/63 P:96 R:26 O2:100%RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, dry MM, oropharynx clear  
Neck: supple, flat JVP, no LAD  
Lungs: CTAB, no wheezes, rales, ronchi  
CV: RRR, normal S1 + S2, soft ___ SEM, no rubs, gallops  
Abdomen: soft, non-distended, TTP over lower abdomen, +BS, no 
rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema

ON TRANSFER FROM ICU
====================
Vitals T:Afebrile/99.1 BP:90s-110s/60s P:70s-90s ___ 
O2:99%RA  
General: Alert, oriented, no acute distress; sitting up in a 
chair  
Eyes: Sclera anicteric, EOMI
HENT: MMM, OP clear
Lungs: CTAB, no wheezes, rales, ronchi  
CV: RRR, normal S1 + S2, soft ___ SEM, no rubs, gallops  
Abdomen: soft, non-distended, TTP over lower abdomen worst in 
LLQ, +BS, no rebound tenderness, no organomegaly  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: no rash
GU: no foley

ON DISCHARGE
====================
Vitals: Afebrile, max 99.0, 110s-150s/50s-80s, 80s-130, ___, 
99%RA
General: Alert, oriented, no acute distress; sitting up at her 
bedside
Eyes: Sclera anicteric, EOMI
HENT: MMM, OP clear
Lungs: CTAB, no wheezes, rales, ronchi  
CV: RRR, normal S1 + S2, soft ___ SEM, no rubs, gallops  
Abdomen: soft, non-distended, very minimal tenderness in LLQ, 
+BS, no rebound tenderness, no organomegaly  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: no rash
GU: no foley
 
Pertinent Results:
ON ADMISSION/TRANSFER:
======================
Labs ___ 10:59PM: WBC-13.6* HGB-10.0* HCT-30.1* PLT 
COUNT-275 GLUCOSE-124* UREA N-15 CREAT-0.9 SODIUM-138 
POTASSIUM-3.6 CHLORIDE-103 TOTAL CO2-25 ANION GAP-14 LACTATE-1.0

CT abd/pelvis w/contrast ___: Cecal wall edema and minimal 
adjacent simple fluid and fat stranding at the site of patient's 
polypectomy. Consistent with postpolypectomy electrocautery 
syndrome. No evidence of perforation. Multiple uterine fibroids.

AFTER ADMISSION/TRANSFER:
=========================
CBC remained stable.
No additional imaging was performed.

GI consult assessment ___: ___ yo F w/ h/o HTN p/w abdominal 
pain, n/v after colonoscopy, noted to have leukocytosis, anemia 
and cecal wall edema and fat stranding at the site of patient's 
polypectomy c/w postpolypectomy electrocautery syndrome. There 
is no evidence of perforation on the CT scan read.  She has a 
new anemia, with a risk of post-polypectomy bleed, but no 
evidence of overt blood loss.  Therefore, at this time we 
recommend ongoing supportive management, monitoring of labs, 
signs of overt GI bleed and emperic antibiotics for 
post-polypectomy syndrome." Verbal recommendations were for 5 
days of antibiotics (given limited evidence of benefit), advance 
diet as tolerated, discharge OK if patient able to advance diet 
and no evidence of ongoing GI bleeding.
 
Brief Hospital Course:
ISSUES ADDRESSED THIS HOSPITAL STAY:
[Active]
# Abdominal pain: postpolypectomy electrocautery syndrome vs 
microperforation. No free air on CT, which was reassuring 
perforation; LFTs and lipase normal made cholecystitis, 
cholangitis, pancreatitis unlikely; no diverticula on CT to 
suggest diverticulitis; she was low risk for ischemic colitis, 
though was an initial consideration, lactates unremarkable. 
Improved with IVF, pain medication, cipro/flagyl, and bowel 
rest. Diet advanced on day of discharge, tolerated well. Had 
normal BM morning of DC. Plan for 3 more days of cipro/flagyl 
after DC.
# Anemia: Probably acute blood loss anemia in setting of GI 
biospies given guaiac positive stool, but there was also 
probably a component of dilution. CBC remained stable on serial 
checks, and she had a normal stool without melena or gross blood 
prior to discharge.
# Hypotension: Resolved with IVF. Likely SIRS and acute blood 
loss. Cultures negative (though asymptomatic bacteriuria).
# GERD with EGD evidence of gastritis: Continued PPI, but 
transitioned to high dose BID.

[Stable/Chronic/Minor]
# HTN: Held home anti-hypertensives while here. Resumed BB at 
___, but instructed her to monitor her BPs at home and resume her 
valsartan only if BPs >140/90.
# Anxiety: Continued home buspar. She had a mild anxiety attack 
on the night prior to discharge with tachycardia and mild 
hypertension, which resolved with a single dose of Ativan.
# HLD: Continued home simvastatin.
# Hypothyroidism: Continued home levothyroxine. TSH was 1.7.

NARRATIVE:
Patient is a ___ year old female with PMHx of HTN, HLD, GERD who 
presented with abdominal pain, nausea, and vomiting after 
colonoscopy w/ polypectomy and EGD w/ biopsy who was found to 
have anemia, guaiac positive stool, and CT scan showing fat 
stranding around cecum. She was hypotensive (responsive to 
fluids) in the emergency department and initially admitted to 
the MICU (___) where she was hemodynamically stable, 
afebrile, and without signs of active bleeding. Her anemia was 
stable and she was placed on maintenance fluids. Her abdominal 
exam remained relatively benign (tender in LLQ). She was seen by 
GI who recommended continued conservative management with bowel 
rest, antibiotics, and cautious advancement of diet. As her pain 
improved, her diet was advanced. She requested discharge. She is 
being discharged with a short course of cipro and flagyl. Of 
note, her EGD showed diffuse erythema. I placed her on a BID PPI 
for possible gastritis, and gave her a prescription for a 
month's supply of BID high dose PPI.

TRANSITIONAL:
# She needs PCP follow up for her abdominal pain and blood 
pressure
# Code: Full (confirmed)
# Contact person: ___ (husband): ___

BILLING: >30 minutes spent coordinating discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Tartrate 50 mg PO BID 
2. Valsartan 320 mg PO DAILY 
3. Omeprazole 20 mg PO DAILY 
4. Simvastatin 5 mg PO DAILY 
5. Levothyroxine Sodium 50 mcg PO DAILY 
6. Aspirin 81 mg PO DAILY 
7. BusPIRone 10 mg PO DAILY:PRN anxiety 

 
Discharge Medications:
1. Levothyroxine Sodium 50 mcg PO DAILY 
2. Simvastatin 5 mg PO DAILY 
3. Ciprofloxacin HCl 500 mg PO Q12H Duration: 3 Days 
RX *ciprofloxacin [Cipro] 500 mg 1 tablet(s) by mouth twice 
daily Disp #*6 Tablet Refills:*0
4. MetRONIDAZOLE (FLagyl) 500 mg PO TID Duration: 3 Days 
RX *metronidazole [Flagyl] 500 mg 1 tablet(s) by mouth every 8 
hours Disp #*9 Tablet Refills:*0
5. Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice daily Disp 
#*60 Tablet Refills:*0
6. Aspirin 81 mg PO DAILY 
7. BusPIRone 10 mg PO DAILY:PRN anxiety 
8. Metoprolol Tartrate 50 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal pain, nausea and vomiting, likely post-polypectomy 
syndrome
Fluid responsive hypotension, likely dehydration and 
inflammation 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted with abdominal pain, nausea, and vomiting 
after a colonoscopy and EGD where they did biopsies and removed 
a polyp. You were sick enough to go to the ICU, and you were 
started on antibiotics and given fluids for low blood pressure. 
You had a CT scan that showed some inflammation in the colon. 
You may have had what is called "post polypectomy syndrome" 
which is a known complication of colonoscopy with polyp removal. 
You got better and advanced your diet to a regular diet.
 
Followup Instructions:
___